US06376672B1
To a suspension of 5.75 g (40 mmol) of 1,2-difluoro-4-methoxy-benzene, 2.18 g (72 mmol) of paraformaldehyde and 3.55 g (25 mmol) of phosphorouspentoxide in 20 ml of acetic acid were added dropwise 7.2 ml of aqueous hydrochloric acid (37%). Thereupon, the reaction mixture was stirred for 18 hours at room temperature and additional 4 hours at 60° C. For the working up the mixture was hydrolyzed on crushed ice and 200 ml of diethylether were added. Under vigorous stirring 50 ml of saturated aqueous sodium hydrogencarbonate solution were added dropwise, then solid sodium hydrogencarbonate was added until the evolvement of carbondioxide had ceased. Subsequently, the organic phase was separated, extracted with saturated sodium chloride solution and dried over sodium sulfate. The solvent was evaporated and the crude product distilled. There were obtained 7.1 g (92% of theory) of 1-chloromethyl-4,5-difluoro-2-methoxy-benzene as a colorless liquid; b.p.; 92-93° C. (6 Torr); MS: 192 (M)+.

reactant | 1,2-difluoro-4-methoxy-benzene | 40 mmol, 5.75 g | FC1=C(C=C(C=C1)OC)F | C7H6F2O
reactant | paraformaldehyde | 72 mmol, 2.18 g | C=O | CH2O
reactant | hydrochloric acid | 7.2 ml | Cl | ClH
reactant | sodium hydrogencarbonate | 50 ml | C(O)([O-])=O.[Na+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | diethylether | 200 ml | C(C)OCC | C4H10O
product | 1-chloromethyl-4,5-difluoro-2-methoxy-benzene | 7.1 g, 92% | ClCC1=C(C=C(C(=C1)F)F)OC | C8H7ClF2O
